US08809352B2
3-Oxo-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-ethyl ester (4.6 g, 16.8 mmol) was dissolved in EtOH (90 mL), and sodium ethoxide (2.3 g, 33.6 mmol) and formamidine hydrochloride (2.0 g, 25.2 mmol) were sequentially added. The resulting suspension was heated to 70° C. and stirred for 5 hours, and then the reaction mixture was cooled to room temperature and concentrated. The residue was dissolved in saturated ammonium chloride and extracted with ethyl acetate. The aqueous phase was adjusted to pH ˜5.5 using concentrated AcOH, and extracted several more times with ethyl acetate. The combined organic layers were sequentially washed with water and brine, dried, and concentrated to afford 4-hydroxy-5,8-dihydro-6H-pyrido[3,4-d]pyrimidine-7-carboxylic acid tert-butyl ester as a brown solid (1.8 g, 42% yield). MS (ESI) m/e (M+H+)=251.28

reactant | 3-Oxo-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-ethyl ester | 16.8 mmol, 4.6 g | C(C)OC(=O)C1C(CN(CC1)C(=O)OC(C)(C)C)=O | C13H21NO5
reactant | sodium ethoxide | 33.6 mmol, 2.3 g | [O-]CC.[Na+]
reactant | formamidine hydrochloride | 25.2 mmol, 2.0 g | Cl.C(=N)N
solvent | EtOH | 90 mL | CCO | C2H6O
product | 4-hydroxy-5,8-dihydro-6H-pyrido[3,4-d]pyrimidine-7-carboxylic acid tert-butyl ester | 1.8 g, 42% yield | C(C)(C)(C)OC(=O)N1CC=2N=CN=C(C2CC1)O | C12H17N3O3
